US05736534
4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-nitro-quinazoline hydrochloride
4-Chloro-7-nitroquinazoline (11.22 g, 53.5 mmol) was slurried into 35 ml isopropanol, treated with 6-chloroindoline (8.25 g, 53.7 mmol), refluxed for three hours, then cooled slowly to room temperature. Product was filtered and air dried overnight to afford bright yellow powder; 13.18 g (68%): M.P. 230° C. (dec); LC-MS: 327 (MH+), 329 ((M+2)H+); Calc. C16H11ClN4O2.HCl: C,52.91; H,3.3; N,15.43; Cl,19.52; Found: C,52.77; H,3.61; N,14.78; Cl,19.62.

reactant | 4-Chloro-7-nitroquinazoline | 53.5 mmol, 11.22 g | ClC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 6-chloroindoline | 53.7 mmol, 8.25 g | ClC1=CC=C2CCNC2=C1 | C8H8ClN
solvent | isopropanol | 35 ml | C(C)(C)O | C3H8O
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-nitro-quinazoline hydrochloride | Cl.ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | InChI=1S/C16H11ClN4O2.ClH/c17-11-2-1-10-5-6-20(15(10)7-11)16-13-4-3-12(21(22)23)8-14(13)18-9-19-16;/h1-4,7-9H,5-6H2;1H
